US08912210B2
Step D: (3R,5R & 3S,5S)-3-Azido-5-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one
To a stirred solution of lithium bis(trimethylsilyl)amide (1.0 M in THF, 26.3 mL, 26.3 mmol) in THF (120 mL) at −78° C. was added a cold (−78° C.) solution of 5-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one (6.42 g, 21.9 mmol) in THF (100 mL) dropwise, keeping the internal temperature of the reaction mixture below −65° C. The resulting mixture was stirred at −78° C. for 30 min, then a cold (−78° C.) solution of 2,4,6-triisopropylbenzenesulfonyl azide (Harmon et al. (1973) J. Org. Chem. 38, 11-16) (8.81 g, 28.5 mmol) in THF (80 mL) was added dropwise, keeping the internal temperature of the reaction mixture below −65° C. The reaction mixture was stirred at −78° C. for 45 min, then AcOH (6.0 mL, 105 mmol) was added. The resulting mixture was allowed to warm slowly to ambient temperature and was partitioned between saturated aqueous sodium bicarbonate (1 L) and CH2Cl2 (1.5 L). The organic layer was washed with brine, then dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexanes:EtOAc—100:0 to 40:60, to give the title compound. MS: m/z=334.9 (M+1).

reactant | lithium bis(trimethylsilyl)amide | 26.3 mmol, 1.0 M, 26.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one | 21.9 mmol, 6.42 g | FC1=C(C=CC=C1F)C1CCC(N(C1)CC(F)(F)F)=O | C13H12F5NO
reactant | 2,4,6-triisopropylbenzenesulfonyl azide | 28.5 mmol, 8.81 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | AcOH | 105 mmol, 6.0 mL | CC(=O)O | C2H4O2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-Azido-5-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one | N(=[N+]=[N-])C1C(N(CC(C1)C1=C(C(=CC=C1)F)F)CC(F)(F)F)=O | C13H11F5N4O
